US07192968B2
Lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]-pyridine-2-carboxylate
2-Bromo-5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridine (531 mg) was dissolved in absolute diethyl ether (20 ml), n-butyllithium (1.54N hexane solution, 1.63 ml) was added dropwise at −78° C., and the mixture was stirred for 30 minutes with ice cooling. After passing carbon dioxide into the reaction mixture at −78° C. for 1 hour, the mixture was warmed to room temperature. The reaction mixture was concentrated under reduced pressure to obtain the title compound (523 mg) as a pale brown solid.

reactant | 2-Bromo-5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridine | 531 mg | BrC=1SC=2CN(CCC2N1)C | C7H9BrN2S
reactant | n-butyllithium | 1.54N, 1.63 ml | C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | Lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]-pyridine-2-carboxylate | 523 mg | CN1CC2=C(CC1)N=C(S2)C(=O)[O-].[Li+] | InChI=1S/C8H10N2O2S.Li/c1-10-3-2-5-6(4-10)13-7(9-5)8(11)12;/h2-4H2,1H3,(H,11,12);/q;+1/p-1
